US08242175B2
A mixture of 5-chloro-2-fluoro-benzonitrile (500 mg, 3.21 mmol), K2CO3 (1.32 g, 9.64 mmol) and 1-methyl-piperazine (482 mg, 4.81 mmol) in DMSO (6.4 ml) was stirred at 100° C. for 6 h and then partitioned between water and Et2O. The organic phase was dried over Na2SO4 and evaporated in vacuo. The crude mixture was purified by column chromatography (eluent: DCM/MeOH/NH4OH 98:2:0.1) to give 660 mg of 5-chloro-2-(4-methyl-piperazin-1-yl)-benzonitrile.

reactant | 5-chloro-2-fluoro-benzonitrile | 3.21 mmol, 500 mg | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | K2CO3 | 9.64 mmol, 1.32 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-piperazine | 4.81 mmol, 482 mg | CN1CCNCC1 | C5H12N2
solvent | DMSO | 6.4 ml | CS(=O)C | C2H6OS
product | 5-chloro-2-(4-methyl-piperazin-1-yl)-benzonitrile | 660 mg | ClC=1C=CC(=C(C#N)C1)N1CCN(CC1)C | C12H14ClN3
